* Testbench for 5-Transistor OTA (ota001)
* Design verification for AI-generated circuits

.title OTA001 Design Verification Testbench

* Options (must come before circuit elements)
.option scale=1.0u

* SKY130 PDK Models (define parameters for nominal simulation)
.param sky130_fd_pr__nfet_01v8__toxe_slope = 0
.param sky130_fd_pr__nfet_01v8__toxe_slope1 = 0
.param sky130_fd_pr__nfet_01v8__vth0_slope = 0  
.param sky130_fd_pr__nfet_01v8__vth0_slope1 = 0
.param sky130_fd_pr__nfet_01v8__voff_slope = 0
.param sky130_fd_pr__nfet_01v8__voff_slope1 = 0
.param sky130_fd_pr__nfet_01v8__nfactor_slope = 0
.param sky130_fd_pr__nfet_01v8__nfactor_slope1 = 0
.param sky130_fd_pr__nfet_01v8__lint_diff = 0
.param sky130_fd_pr__nfet_01v8__wint_diff = 0
.param sky130_fd_pr__nfet_01v8__wlod_diff = 0
.param sky130_fd_pr__nfet_01v8__kvth0_diff = 0
.param sky130_fd_pr__nfet_01v8__llodvth_diff = 0
.param sky130_fd_pr__nfet_01v8__lkvth0_diff = 0
.param sky130_fd_pr__nfet_01v8__wkvth0_diff = 0
.param sky130_fd_pr__nfet_01v8__ku0_diff = 0
.param sky130_fd_pr__nfet_01v8__lku0_diff = 0
.param sky130_fd_pr__nfet_01v8__wku0_diff = 0
.param sky130_fd_pr__nfet_01v8__pku0_diff = 0
.param sky130_fd_pr__nfet_01v8__tku0_diff = 0
.param sky130_fd_pr__nfet_01v8__kvsat_diff = 0
.param sky130_fd_pr__nfet_01v8__llodku0_diff = 0
.param sky130_fd_pr__nfet_01v8__wlodku0_diff = 0
.param sky130_fd_pr__nfet_01v8__kvth0_slope = 0

.param sky130_fd_pr__pfet_01v8__toxe_slope = 0
.param sky130_fd_pr__pfet_01v8__toxe_slope1 = 0
.param sky130_fd_pr__pfet_01v8__vth0_slope = 0  
.param sky130_fd_pr__pfet_01v8__vth0_slope1 = 0
.param sky130_fd_pr__pfet_01v8__voff_slope = 0
.param sky130_fd_pr__pfet_01v8__voff_slope1 = 0
.param sky130_fd_pr__pfet_01v8__nfactor_slope = 0
.param sky130_fd_pr__pfet_01v8__nfactor_slope1 = 0
.param sky130_fd_pr__pfet_01v8__lint_diff = 0
.param sky130_fd_pr__pfet_01v8__wint_diff = 0
.param sky130_fd_pr__pfet_01v8__wlod_diff = 0
.param sky130_fd_pr__pfet_01v8__kvth0_diff = 0
.param sky130_fd_pr__pfet_01v8__llodvth_diff = 0
.param sky130_fd_pr__pfet_01v8__lkvth0_diff = 0
.param sky130_fd_pr__pfet_01v8__wkvth0_diff = 0
.param sky130_fd_pr__pfet_01v8__ku0_diff = 0
.param sky130_fd_pr__pfet_01v8__lku0_diff = 0
.param sky130_fd_pr__pfet_01v8__wku0_diff = 0
.param sky130_fd_pr__pfet_01v8__pku0_diff = 0
.param sky130_fd_pr__pfet_01v8__tku0_diff = 0
.param sky130_fd_pr__pfet_01v8__kvsat_diff = 0
.param sky130_fd_pr__pfet_01v8__llodku0_diff = 0
.param sky130_fd_pr__pfet_01v8__wlodku0_diff = 0
.param sky130_fd_pr__pfet_01v8__kvth0_slope = 0

* Include SKY130 models (relative paths from PDK root where ngspice runs)
.include cells/nfet_01v8/sky130_fd_pr__nfet_01v8__tt.corner.spice
.include cells/pfet_01v8/sky130_fd_pr__pfet_01v8__tt.corner.spice

* Global parameters (temperature for simulation)
.param TEMP=27

* Supply voltage (VDD provided by DUT netlist)
VDD vdd 0 DC 1.8
VSS vss 0 DC 0

* Load capacitor (CL value provided by DUT netlist)
* Note: CL device is defined here, but uses CL parameter from DUT
CL vout 0 5p

* ===== DUT (Design Under Test) =====
* DUT provides:
*   - Input voltage sources Vinp, Vinn with designed DC common-mode
*   - Bias voltage source Vbias_n
*   - Transistor parameters and circuit topology
* This section will be replaced with AI-generated netlist
{dut_netlist}
* ===== End of DUT =====

* ==== Measurements ====
.control
* Run DC operating point analysis first
op
* Power Measurement: P = V * I for all voltage sources
* VDD power (positive current flows out of positive terminal)
let power_vdd = v(vdd) * abs(i(vdd))
* VSS power (typically negligible for differential circuits)
let power_vss = v(vss) * abs(i(vss))
* Total power
let power = power_vdd + power_vss
echo "DC Operating Point Analysis Complete"

* Run AC analysis for gain, GBW, phase margin
ac dec 100 1 1G

* AC Analysis Measurements
set units=degrees

* Auto-detect output node (try common names: vout, out2, out, n2)
if length(v(vout)) > 0
  let output_node = v(vout)
else
  if length(v(out2)) > 0
    let output_node = v(out2)
  else
    if length(v(out)) > 0
      let output_node = v(out)
    else
      let output_node = v(n2)
    end
  end
end

let vout_mag = abs(output_node)
let vout_db = db(vout_mag)
let vout_phase = phase(output_node)

* Find DC Gain (low frequency)
meas ac dc_gain_db find vout_db at=10

* Find Unity Gain Frequency (0dB crossing)
meas ac unity_gain_freq_hz when vout_db=0 cross=1

* Find Phase Margin at UGF
meas ac phase_at_ugf find vout_phase when vout_db=0 cross=1

* Power Measurement (from DC operating point)

echo ""
echo "=== BENCHMARK RESULTS ==="
* Compute phase margin (handle wrapping in post-processing)
* Phase margin = 180 + phase_at_ugf (assuming phase_at_ugf is negative or properly wrapped)
echo ""

quit
.endc

.end

